US08022062B2
2-Cyclohexylmethyl-benzothiazole-6-carbonitrile:
Place 2-bromo-benzothiazole-6-carbonitrile (0.2 g, 0.96 mmol), anhydrous THF (3 mL), 1-methyl-2-pyrrolidinone (3 mL), tetrabutylammonium iodide (1.1 g, 2.89 mmol), tris(dibenzylideneacetone)dipalladium(0) (18 mg, 0.09 mmol) and [1,1′-bis(diphenylphosphino)ferrocine]dichloropalladium (II) (11 mg, 0.09 mmol) in a flask. Add 0.5M cyclohexylmethylzinc bromide in THF (3.8 mL, 1.92 mmol) to the mixture, degas 3 times by partially evacuating the atmosphere and flushing with nitrogen and stir the reaction mixture at 80° C. for 2 h. Cool the reaction mixture to room temperature, dilute with EtOAc (10 mL) and wash with brine (10 mL). Dry the organic layer over anhydrous Na2SO4, filter and concentrate in vacuo. Purity the residue by chromatography on silica gel eluting sequentially with hexane/EtOAc (1:0 to 4:1 gradient) to obtain the desired intermediate as a yellow solid (140 mg, 57%). GC-MS m/z: 256 (M+).

reactant | 2-bromo-benzothiazole-6-carbonitrile | 0.96 mmol, 0.2 g | BrC=1SC2=C(N1)C=CC(=C2)C#N | C8H3BrN2S
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | cyclohexylmethylzinc bromide | 0.5M | [Br-].C1(CCCCC1)C[Zn+]
reactant | THF | 1.92 mmol, 3.8 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 2.89 mmol, 1.1 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.09 mmol, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1-methyl-2-pyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | 2-Cyclohexylmethyl-benzothiazole-6-carbonitrile | 140 mg, 57% | C1(CCCCC1)CC=1SC2=C(N1)C=CC(=C2)C#N | C15H16N2S
